US08431563B2
Following the procedure described for Example 152, 2-(3-bromo-4-(4-(phenylsulfonyl)piperidin-1-yl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol was coupled to 1-pentyn-3-ol (Aldrich, St. Louis, Mo.) to afford 1-(5-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-2-(4-(phenylsulfonyl)piperidin-1-yl)phenyl)pent-1-yn-3-ol as a light yellow solid and a mixture of enantiomers.

reactant | 2-(3-bromo-4-(4-(phenylsulfonyl)piperidin-1-yl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | BrC=1C=C(C=CC1N1CCC(CC1)S(=O)(=O)C1=CC=CC=C1)C(C(F)(F)F)(C(F)(F)F)O | C20H18BrF6NO3S
reactant | 1-pentyn-3-ol | C#CC(CC)O | C5H8O
product | 1-(5-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-2-(4-(phenylsulfonyl)piperidin-1-yl)phenyl)pent-1-yn-3-ol | FC(C(C(F)(F)F)(O)C=1C=CC(=C(C1)C#CC(CC)O)N1CCC(CC1)S(=O)(=O)C1=CC=CC=C1)(F)F | C25H25F6NO4S
